### PR TITLE
Short polynomial containment decidability

### PR DESCRIPTION
**Pull request by tom111**
Formalization of the problem whether a Turing machine can decide if an ideal in a polynomial ring contains a short polynomial. 

I've created this with a lot of LLM help: A bit of Aristotle in the beginning and then Claude code to walk me through all the steps and prepare the file.

I'm relatively new to lean. Any comments and suggestions are very welcome.

### CODE REVIEW

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 1]
```diff
@@ -0,0 +1,201 @@
...
+YCor's comment poses the decidability question: "A general question is whether it's decidable
+(given an oracle to compute in K), and also whether it's decidable for principal ideals."
+
+A polynomial is *$t$-short* if it is nonzero and has at most $t$ terms. Given generators
+of an ideal $I \subseteq \mathbb{Q}[x_1, x_2, \ldots]$, can one algorithmically decide
+whether $I$ contains a $t$-short polynomial?
+
+The problem is solved for $t \leq 2$: monomials ($t = 1$) can be detected via colon ideals,
+and binomials ($t = 2$) via the algorithm of Jensen–Kahle–Katthän (2017). For $t \geq 3$,
+the problem is open, even in the univariate case $\mathbb{Q}[x]$.
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean]:
```suggestion
*References:*
- [No short polynomials vanish on bounded rank matrices](
  https://doi.org/10.1112/blms.12819)
  by *Jan Draisma, Thomas Kahle, Finn Wiersig*, Bull. Lond. Math. Soc. (2023)
- [Finding binomials in polynomial ideals](
  https://doi.org/10.1186/s40687-017-0106-0)
  by *Anders Jensen, Thomas Kahle, Lukas Katthän*, Res. Math. Sci. (2017)
- [Computing the binomial part of a polynomial ideal](
  https://doi.org/10.1016/j.jsc.2023.102298)
  by *Martin Kreuzer, Florian Walsh*, J. Symbolic Comput. (2024)
- [Computing sparse multiples of polynomials](
  https://doi.org/10.1007/s00453-012-9652-4)
  by *Mark Giesbrecht, Daniel S. Roche, Hrushikesh Tilak*, Algorithmica (2012)
- [What is the shortest polynomial divisible by (x-1)(y-1)(x²y-1)?](
  https://mathoverflow.net/questions/273132) — MathOverflow question by Thomas Kahle (2017).
  YCor's comment poses the decidability question: "A general question is whether it's decidable
  (given an oracle to compute in K), and also whether it's decidable for principal ideals."
```

Our references are usually just such a list. (I will update the AGENTS.md to make that more clear : #3518)

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 2]
```diff
@@ -0,0 +1,201 @@
...
+abbrev PolyRep := List (List ℕ × ℤ × ℕ)
+
+/--
+Interpret an exponent vector as a monomial in `ℕ →₀ ℕ`.
+-/
+def monomialOfList (l : List ℕ) : ℕ →₀ ℕ :=
+  (l.mapIdx (fun i e => Finsupp.single i e)).sum
+
+/--
+Interpret a `PolyRep` as a polynomial in $\mathbb{Q}[x_1, x_2, \ldots]$.
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean]: might it make sense to change the docstring to zero-based indexing here as well? It is that way in the lean code, if it is not totally unusual in the informal math, perhaps a good idea to homogenize. also below (for instance in `binomial_decidability`)

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 3]
```diff
@@ -0,0 +1,201 @@
...
+The original problem is stated for polynomial rings $\mathbb{Q}[x_1, \ldots, x_n]$ in
+finitely many variables, with $n$ part of the input. Here we use `MvPolynomial ℕ ℚ`
+(countably many variables) as the ambient ring. This is equivalent because the generators
+are finite and each mentions only finitely many variables, so every element of the ideal
+uses finitely many variables. The ideal effectively lives in `MvPolynomial (Fin n) ℚ`
+for the appropriate $n$.
+-/
+def HasShortPoly (t : ℕ) (I : Ideal (MvPolynomial ℕ ℚ)) : Prop :=
+  ∃ p ∈ I, p ≠ 0 ∧ p.support.card ≤ t
+
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:68]:
```suggestion

/-- No nonzero polynomial has zero terms, so `HasShortPoly 0` is always false. -/
@[category API, AMS 13]
theorem not_hasShortPoly_zero (I : Ideal (MvPolynomial ℕ ℚ)) : ¬ HasShortPoly 0 I := by
  intro ⟨p, _, hp_ne, hp_card⟩
  exact hp_ne (MvPolynomial.support_eq_empty.mp (Finset.card_eq_zero.mp (Nat.le_zero.mp hp_card)))

/-- The zero ideal contains no nonzero elements, so it has no short polynomials. -/
@[category API, AMS 13]
theorem not_hasShortPoly_bot (t : ℕ) : ¬ HasShortPoly t (⊥ : Ideal (MvPolynomial ℕ ℚ)) := by
  intro ⟨p, hp_mem, hp_ne, _⟩
  exact hp_ne (Ideal.mem_bot.mp hp_mem)

/-- The whole ring contains the monomial $1$, which has one term. -/
@[category API, AMS 13]
theorem hasShortPoly_one_top : HasShortPoly 1 (⊤ : Ideal (MvPolynomial ℕ ℚ)) := by
  refine ⟨X 0, Submodule.mem_top, by simp, ?_⟩
  simp [MvPolynomial.support_X]

```

Perhaps let's add a few API tests?

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 4]
```diff
@@ -0,0 +1,201 @@
...
+mathematical `MvPolynomial ℕ ℚ` where the predicate `HasShortPoly` is stated.
+-/
+abbrev PolyRep := List (List ℕ × ℤ × ℕ)
+
+/--
+Interpret an exponent vector as a monomial in `ℕ →₀ ℕ`.
+-/
+def monomialOfList (l : List ℕ) : ℕ →₀ ℕ :=
+  (l.mapIdx (fun i e => Finsupp.single i e)).sum
+
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:110]:
```suggestion

/-- The empty exponent vector gives the zero `Finsupp`, representing $x^0 = 1$. -/
@[category API, AMS 13]
theorem monomialOfList_nil : monomialOfList [] = 0 := by
  simp [monomialOfList]

```

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 5]
```diff
@@ -0,0 +1,201 @@
...
+/--
+Interpret a `PolyRep` as a polynomial in $\mathbb{Q}[x_1, x_2, \ldots]$.
+Each entry `(exps, num, den)` represents the term $\frac{\mathtt{num}}{\mathtt{den}} \cdot
+x_0^{e_0} x_1^{e_1} \cdots$, where the coefficient is given as a fraction `num / den`
+with `num : ℤ` and `den : ℕ`.
+-/
+def polyOfRep (p : PolyRep) : MvPolynomial ℕ ℚ :=
+  (p.map (fun (exps, num, den) =>
+    MvPolynomial.monomial (monomialOfList exps) (↑num / ↑den))).sum
+
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:125]:
```suggestion


/-- The empty list represents the zero polynomial. -/
@[category API, AMS 13]
theorem polyOfRep_nil : polyOfRep [] = 0 := by
  simp [polyOfRep]

```

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 6]
```diff
@@ -0,0 +1,201 @@
...
+/--
+Build an ideal from a list of polynomial representations.
+-/
+def idealOfInput (L : List PolyRep) : Ideal (MvPolynomial ℕ ℚ) :=
+  Ideal.span (Set.range (fun i : Fin L.length => polyOfRep (L.get i)))
+
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:136]:
```suggestion

/-- Empty generators produce the zero ideal. -/
@[category API, AMS 13]
theorem idealOfInput_nil : idealOfInput [] = ⊥ := by
  simp [idealOfInput]

```

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 7]
```diff
@@ -0,0 +1,201 @@
...
+/--
+The short polynomial decision problem for a fixed $t$: given a list of generators
+(in the concrete `PolyRep` encoding), does the ideal they generate contain a $t$-short
+polynomial?
+-/
+def decisionProblem (t : ℕ) : List PolyRep → Prop :=
+  fun L => HasShortPoly t (idealOfInput L)
+
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:149]:
```suggestion

/-- The zero ideal has no $t$-short polynomial. -/
@[category API, AMS 13]
theorem not_decisionProblem_nil (t : ℕ) : ¬ decisionProblem t [] := by
  simp only [decisionProblem]
  rw [idealOfInput_nil]
  exact not_hasShortPoly_bot t

```

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 8]
```diff
@@ -0,0 +1,201 @@
...
+    X 1 - C (Nat.fib n : ℚ) * X 0 - C (Nat.fib (n - 1) : ℚ),
+    X 0 ^ 2 - X 0 - 1
+  }
+
+/-- The binomial $x^n - y$ belongs to $I_n$. This follows from the Fibonacci recurrence:
+modulo $x^2 - x - 1$, one has $x^n \equiv F_n x + F_{n-1}$, so $x^n - y \equiv 0$ in $I_n$. -/
+@[category test, AMS 13]
+theorem fib_ideal_contains_binomial (n : ℕ) (hn : 1 ≤ n) :
+    X 0 ^ n - X 1 ∈ fibIdeal n := by
+  sorry
```
Comment (mo271) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean]: AlphaProof can prove this: 
```
theorem fib_ideal_contains_binomial (n : ℕ) (hn : 1 ≤ n) :
    X 0 ^ n - X 1 ∈ fibIdeal n := by
  norm_num [fibIdeal, false]
  rw[Ideal.mem_span_pair]
  by_contra!
  replace hn:∃ A B : MvPolynomial (Fin 2) Rat, A*(.X (1)-n.fib*.X 0-(n-1).fib)+B*(.X 0^2-.X 0-1)=.X 0^n-.X (1):=?_
  · bound
  use-1
  refine n.sub_add_cancel hn▸(n-1).strongRec fun and x=>match and with|0=>⟨0,by ring⟩|1=>⟨1,by ring⟩ | S+2=>((x _) (by constructor)).elim fun and h=>((x S (by valid)).elim) ?_
  use fun A B=>⟨and*.X 0+(S+2).fib,Nat.fib_add_two▸.trans (by rw [Nat.cast_add]) (by linear_combination h*.X 0)⟩
```
Potentially clean up the proof and also add it here (or rewrite it from scratch). But also fine to leave as sorry: just a good sanity check that we cannot find a disprove here...

**Review by mo271 — APPROVED** [review]
Thanks, that looks great!

I think the way `ComputablePred` is used here and the encoding makes sense. I will start a thread on zulip nonetheless, because I think this is the first time we have such decision problems in our repo. 

I just made suggestion for a serious of API test statements (which will also be useful when proving stuff about them). 

*Edit*: https://leanprover.zulipchat.com/#narrow/channel/524981-Formal-conjectures/topic/decision.20problems.20and.20.60ComputablePred.60

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean (hunk 8 above)
Comment (tom111) [reply FormalConjectures/Paper/ShortPolynomialDecidability.lean]: I've added proofs. To both parts of the example.

File: FormalConjectures/Paper/ShortPolynomialDecidability.lean [hunk 9]
```diff
@@ -0,0 +1,362 @@
...
+Each exponent vector is a `List ℕ` giving exponents of $x_0, x_1, \ldots$ in order.
+Coefficients are pairs `(num : ℤ, den : ℕ)` representing the rational number `num / den`.
+
+We use this concrete representation rather than `MvPolynomial ℕ ℚ` directly because
+`ComputablePred` requires `Primcodable` on its input type. Mathlib provides `Primcodable`
+for `List`, `ℕ`, `ℤ`, and their products, so `PolyRep` is automatically `Primcodable`.
+In contrast, `MvPolynomial ℕ ℚ` is defined as `(ℕ →₀ ℕ) →₀ ℚ` (a `Finsupp` of
+`Finsupp`s), and Mathlib has no `Primcodable` instance for `Finsupp`. While `Finsupp`
+is `Encodable` (via `Mathlib.Data.Finsupp.Encodable`), the stronger `Primcodable`
+instance needed for `ComputablePred` is not available.
```
Comment (YaelDillies) [inline FormalConjectures/Paper/ShortPolynomialDecidability.lean:98]: Is this instance impossible to write, or is it just that no one has written it yet? If the latter, could you give it a shot? Contributing to formal-conjectures is nice, but filling holes in mathlib truly creates value as it becomes available to everyone.
